US05576343
Preparation of 4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]-3-methoxybenzaldehyde
In 50 ml of tetrahydrofuran were dissolved 3.04 g of vanillin, 3.74 g of (3R)-1-tert-butoxycarbonyl-3-hydroxypyrrolidine and 5.24 g of triphenylphosphine. The thus prepared solution was mixed with 4.00 g of diethyl azodicarboxylate, and the mixture was stirred at room temperature for 18 hours. After concentrating the resulting reaction solution, the thus obtained residue was purified by subjecting it to silica gel column chromatography using an ethanol/chloroform mixture as an elution solvent. In this way, 5.0 g of the title compound was obtained in an oily form.

reactant | vanillin | 3.04 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | (3R)-1-tert-butoxycarbonyl-3-hydroxypyrrolidine | 3.74 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)O | C9H17NO3
reactant | triphenylphosphine | 5.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 4.00 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]-3-methoxybenzaldehyde | 5.0 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC1=C(C=C(C=O)C=C1)OC | C17H23NO5
